### PR TITLE
IsocelesTriangle.lean Team B 8 ZheHaozheng

### PR DESCRIPTION
**Pull request by stupidchunchun**
--文件Construction.Triangle.Isoceles外
-- 增加了edge_eq_edge_of_flip_vertices等四个关于 perm,flip的边,角相等的定理，在Axiom.Triangle.Basic.ex中 -- Axiom.Triangle.Basic判断clock的地方：clock_of_neg_angle 结论从is_cclock 改为 ¬ ... is_cclock -- 判断三角形反全等的地方：acongr_of_AAS，acongr_of_ASA；的结论从全等改为反全等 --文件Construction.Triangle.Isoceles内
-- 第一题is_isoceles_tri_iff_ang_eq_ang_of_nd_tri把angle₂=-angle₃ 删去负号 -- 最后三题regular_tri_of_isoceles_tri_of_fst_ang_eq_sixty_deg 等，加上了isisoceles 的条件 -- ang_eq_sixty_deg_of_cclock_regular_tri 加上了等边三角形的条件 -- 填上了所有sorry

### CODE REVIEW

File: EuclideanGeometry/Foundation/Construction/Triangle/IsocelesTriangle.lean [hunk 1]
```diff
@@ -1,6 +1,19 @@
...
+
+--文件外
+-- 增加了edge_eq_edge_of_flip_vertices等四个关于 perm,flip的边,角相等的定理，在Triangle.Basic.ex中
+-- Triangle.Basic判断clock的地方：clock_of_neg_angle 结论从is_cclock 改为 ¬ ... is_cclock
+-- 判断三角形反全等的地方：acongr_of_AAS，acongr_of_ASA；的结论从全等改为反全等
+--文件内
+-- 第一题is_isoceles_tri_iff_ang_eq_ang_of_nd_tri把angle₂=-angle₃ 删去负号
+-- 最后三题regular_tri_of_isoceles_tri_of_fst_ang_eq_sixty_deg 等，加上了isisoceles 的条件
+-- ang_eq_sixty_deg_of_cclock_regular_tri 加上了等边三角形的条件
+-- 填上了所有sorry
```
Comment (jjdishere) [inline EuclideanGeometry/Foundation/Construction/Triangle/IsocelesTriangle.lean:16]: Please delete comments that are not for common readers but for you and me only from the file.

File: EuclideanGeometry/Foundation/Construction/Triangle/IsocelesTriangle.lean [hunk 2]
```diff
@@ -12,15 +25,56 @@ variable {P : Type _} [EuclideanPlane P]
 
 section IsocelesTriangles
 
+open Triangle
 def Triangle.IsIsoceles (tri : Triangle P) : Prop := tri.edge₂.length = tri.edge₃.length
 
-theorem is_isoceles_tri_iff_ang_eq_ang_of_nd_tri {tri_nd : Triangle_nd P} : tri_nd.1.IsIsoceles ↔ (tri_nd.angle₂.value= - tri_nd.angle₃.value) := sorry
+
+
+
```
Comment (jjdishere) [inline EuclideanGeometry/Foundation/Construction/Triangle/IsocelesTriangle.lean:33]: please delete these empty lines. Please use only one empty line to separate theorems

File: EuclideanGeometry/Foundation/Construction/Triangle/IsocelesTriangle.lean [hunk 3]
```diff
@@ -12,15 +25,56 @@ variable {P : Type _} [EuclideanPlane P]
...
+have h23 : tri_nd.angle₁.value = - tri_nd.flip_vertices.angle₁.value := x
+have h24 : tri_nd.angle₃.value = - tri_nd.flip_vertices.angle₂.value := z
+
+constructor
+intro h0
+have h1 : tri_nd.1.edge₂.length = tri_nd.1.edge₃.length := by
+  exact h0  
+have _ : tri_nd.1 IsACongrTo tri_nd.flip_vertices.1 := by
+  apply acongr_of_SAS
+  rw[← h21 , h1]
```
Comment (jjdishere) [inline EuclideanGeometry/Foundation/Construction/Triangle/IsocelesTriangle.lean:49]: You can try to use `rw [← Triangle.edge_eq_edge_of_flip_vertices tri_nd.1]` or `.2.1, .2.2` instead of use `have`'s.

File: EuclideanGeometry/Foundation/Construction/Triangle/IsocelesTriangle.lean [hunk 4]
```diff
@@ -12,15 +25,56 @@ variable {P : Type _} [EuclideanPlane P]
...
 namespace Triangle
 
 -- Changing the order of vertices 2 and 3 in an isoceles triangle does not change the property of being an isoceles triangle.
-theorem is_isoceles_of_flip_vert_isoceles (tri : Triangle P) (h : tri.IsIsoceles) : tri.flip_vertices.IsIsoceles := by sorry
+theorem is_isoceles_of_flip_vert_isoceles (tri : Triangle P) (h : tri.IsIsoceles) : tri.flip_vertices.IsIsoceles := by 
+have h₁ : tri.edge₂.length = tri.edge₃.length := by 
+  exact h
+have h₂ : tri.flip_vertices.edge₂.length = tri.flip_vertices.edge₃.length := by
+  rcases Triangle.edge_eq_edge_of_flip_vertices tri with ⟨_, b, c⟩ 
+  rw[← b , ← c , h₁]
```
Comment (jjdishere) [inline EuclideanGeometry/Foundation/Construction/Triangle/IsocelesTriangle.lean:76]: do here needs `h\1`? Is `h` OK? If not, you can write `unfold h`, instead of `have`

File: EuclideanGeometry/Foundation/Construction/Triangle/IsocelesTriangle.lean [hunk 5]
```diff
@@ -35,33 +89,243 @@ def Triangle.IsRegular (tri : Triangle P) : Prop := tri.edge₁.length = tri.edg
...
+  exact cclock
+rw[← h1, ← h2] at h3
+rw[← mul_one tri_nd.angle₁.value , ← mul_add, ← mul_add] at h3
+norm_num at h3
+rw[← eq_div_iff] at h3
+constructor
+exact h3
+constructor
+rw[← h1, h3]
+rw[← h2, h3]
```
Comment (jjdishere) [inline EuclideanGeometry/Foundation/Construction/Triangle/IsocelesTriangle.lean:181]: please use `rw [A, B]` instead of `rw[A , B]`

Comment (jjdishere) [reply EuclideanGeometry/Foundation/Construction/Triangle/IsocelesTriangle.lean:181]: same for `linarith`

**Review by jjdishere — CHANGES_REQUESTED** [review]
